US08809389B2
b) Synthesis of 1-(propargyloxy)-6-propyl-3,4-dimethoxybenzene
Following the same procedure as in Example 3 b), 3.92 g (0.02 moles) of 1-hydroxy-6-propyl-3,4-dimethoxybenzene were reacted with 3.0 g (0.02 moles) of a solution of propargyl bromide in toluene (80% w/w) and 2.8 g (0.02 moles) of anhydrous potassium carbonate in 20 ml of acetone.

reactant | 1-hydroxy-6-propyl-3,4-dimethoxybenzene | 0.02 moles, 3.92 g | OC1=CC(=C(C=C1CCC)OC)OC | C11H16O3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 0.02 moles, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1-(propargyloxy)-6-propyl-3,4-dimethoxybenzene | C(C#C)OC1=CC(=C(C=C1CCC)OC)OC | C14H18O3
